US06667342B1
2-Chloro-5-(2-chloroanilino-sulphonyl)aniline
A solution of 3-nitro-4-chlorobenzenesulphonyl chloride (768 mg, 3.0 mmol), 2-chloroaniline (383 mg, 3.0 mmol), 4-dimethylaminopyridine (10 mg, 0.08 mmol) and pyridine (0.30 ml, 3.6 mmol) in DCM (35 ml) was stirred at ambient temperature overnight. The solution was evaporated to dryness, the residue dissolved in EtOAc and washed with 1.0 M aqueous hydrochloric acid and brine, dried and evaporated to dryness. The residue was dissolved in EtOAc (30 ml) and hydrogenated over 10% Pd/C for 4 h at ambient temperature. The catalyst was removed by filtration and the EtOAc evaporated to dryness. The residue was purified by column chromatography on basic alumina using 5% methanol in EtOAc to give, as a solid, the title compound (140 mg, 0.44 mmol). MS: 315.

reactant | 3-nitro-4-chlorobenzenesulphonyl chloride | 3.0 mmol, 768 mg | [N+](=O)([O-])C=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl2NO4S
reactant | 2-chloroaniline | 3.0 mmol, 383 mg | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | pyridine | 3.6 mmol, 0.30 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-(2-chloroanilino-sulphonyl)aniline | 0.44 mmol, 140 mg | ClC1=C(N)C=C(C=C1)S(=O)(=O)C1(C(N)C=CC=C1)Cl | C12H12Cl2N2O2S
